US05190959
The procedure of Example 36 (a) was repeated except for using di(3-thienyl)methyl chloride and 4-hydroxy-1-[3-(4-methyl-2-nitrophenoxy)propyl]piperidine instead of phenyl-2-thienylmethyl chloride and 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine to give oily 4-di(3-thienyl)methoxy-1-[3-(4-methyl-2-nitrophenoxy)propyl]piperidine.

reactant | di(3-thienyl)methyl chloride | S1C=C(C=C1)C(C1=CSC=C1)Cl | C9H7ClS2
reactant | 4-hydroxy-1-[3-(4-methyl-2-nitrophenoxy)propyl]piperidine | OC1CCN(CC1)CCCOC1=C(C=C(C=C1)C)[N+](=O)[O-] | C15H22N2O4
reactant | 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine | OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-] | C14H20N2O4
product | 4-di(3-thienyl)methoxy-1-[3-(4-methyl-2-nitrophenoxy)propyl]piperidine | S1C=C(C=C1)C(OC1CCN(CC1)CCCOC1=C(C=C(C=C1)C)[N+](=O)[O-])C1=CSC=C1 | C24H28N2O4S2
